US05464840
Dissolved 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine (0.75 g, 2.7 mmol)in 1.1 mL of formic acid and 1.5 mL of 37% aqueous formaldehyde. Heated in a 90°-95° C. oil bath for 20 hours. Cooled to room temperature, and made basic with 5% NaOH. Extracted with ether. Dried combined organic extracts with MgSO4, filtered, and evaporated. Crystallized product from hexane to give 0.60 g (76% yield) of 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-l-methyl-piperidine as white solid. Dissolved the free base in ether, and added 19 weight % HCl-EtOH to precipitate the hydrochloride salt.

reactant | 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 2.7 mmol, 0.75 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C3CNCCC3 | C20H23N
reactant | NaOH | [OH-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | formic acid | 1.1 mL | C(=O)O | CH2O2
solvent | formaldehyde | 1.5 mL | C=O | CH2O
product | 3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-l-methyl-piperidine | 0.60 g, 76% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C3CN(CCC3)C | C21H25N
